US08222219B2
1-(β-D-glucopyranosyl)-4-chloro-3-(5-(3-pyridyl)-2-thienylmethyl)benzene
1-(β-D-glucopyranosyl)-4-chloro-3-(5-chloro-2-thienylmethyl)benzene obtained in Example 19 was used and treated in a manner similar to Example 106-(1) to give 1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-4-chloro-3-(5-chloro-2-thienylmethyl)benzene as colorless crystals. APCI-Mass m/Z 590/592 (M+NH4). (2) The above 1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-4-chloro-3-(5-chloro-2-thienylmethyl)benzene and tri-n-butyl(3-pyridyl)tin were used and treated in a manner similar to Example 124 to give the target compound as colorless powder. APCI-Mass m/Z 448/450 (M+H).

reactant | 1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-4-chloro-3-(5-chloro-2-thienylmethyl)benzene | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=CC(=C(C=C1)Cl)CC=1SC(=CC1)Cl | C25H26Cl2O9S
reactant | tri-n-butyl(3-pyridyl)tin | C(CCC)[Sn](C=1C=NC=CC1)(CCCC)CCCC
product | 1-(β-D-glucopyranosyl)-4-chloro-3-(5-(3-pyridyl)-2-thienylmethyl)benzene | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=CC(=C(C=C1)Cl)CC=1SC(=CC1)C=1C=NC=CC1 | C22H22ClNO5S
